US03950393
A mixture of 21 gm of 2-acetamino-5-carbethoxy-N-cyclohexyl-N-methyl-benzylamine, 100 ml of ethanol, 90 ml of water and 60 ml of concentrated hydrochloric acid was refluxed for 1 hour. Thereafter, the reaction solution was cooled, poured over ice, made alkaline with ammonia and extracted three times with chloroform. The aqueous alkaline phase was evaporated to dryness in vacuo, the residue was thoroughly stirred with ethanol, and the mixture was filtered. The filtrate was evaporated to dryness in vacuo, and the residue was recrystallized from ethanol, yielding 2-amino-5-carboxy-N-cyclohexyl-N-methyl-benzylamine, m.p. 200°-205°C.

reactant | 2-acetamino-5-carbethoxy-N-cyclohexyl-N-methyl-benzylamine | 21 gm | N(C(=O)C)C1=C(CN(C)C2CCCCC2)C=C(C=C1)C(=O)OCC | C19H28N2O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 90 ml | O | H2O
product | 2-amino-5-carboxy-N-cyclohexyl-N-methyl-benzylamine | NC1=C(CN(C)C2CCCCC2)C=C(C=C1)C(=O)O | C15H22N2O2
